US06831106B1
a) 3-Bromo-2-methylphenol
20 g (107 mmol) of 3-bromo-2-methylphenylamine are dissolved in 150 mL of aqueous 1.0M sulphuric acid and the mixture is cooled to 0° C. A solution of 8.9 g (129 mmol) of sodium nitrite in 20 mL of water is added slowly. The medium is stirred for 15 minutes at 0° C., and 50 mL of concentrated sulphuric acid are then added. The reaction medium is then heated at 100° C. for 1 hour and then cooled and diluted in water. After extraction with ethyl ether, the residue obtained is recrystallized from a heptane/dichloromethane mixture. A yellow solid is obtained (m.p.=89° C.; m=12.3 g; Y=61%).

reactant | 3-bromo-2-methylphenylamine | 107 mmol, 20 g | BrC=1C(=C(C=CC1)N)C | C7H8BrN
reactant | sodium nitrite | 129 mmol, 8.9 g | N(=O)[O-].[Na+]
solvent | sulphuric acid | 1.0M | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
solvent | sulphuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-2-methylphenol | BrC=1C(=C(C=CC1)O)C | C7H7BrO
